US06008212
3-(2-Acetoxy-ethyl)-4-bromo-8-nitro-naphthalene-1-sulfonamide
Solid 3-(2-acetoxy-ethyl)-4-bromo-8-nitro-naphthalene-1-sulfonyl chloride (5.00 g, 11.45 mmol) was added at room temperature to 0.5M ammonia in dioxane (92 mL, 46 mmol). After stirring at room temperature for 40 minutes, the mixture was evaporated under vacuum to a residue which was mixed with water (100 mL), sonicated, and filtered. The collected pale-yellow solid was washed with water (2×20 mL) and vacuum dried to afford the title compound (4.75 g).

reactant | 3-(2-acetoxy-ethyl)-4-bromo-8-nitro-naphthalene-1-sulfonyl chloride | 11.45 mmol, 5.00 g | C(C)(=O)OCCC=1C=C(C2=C(C=CC=C2C1Br)[N+](=O)[O-])S(=O)(=O)Cl | C14H11BrClNO6S
reactant | ammonia | N | H3N
reactant | dioxane | 46 mmol, 92 mL | O1CCOCC1 | C4H8O2
product | 3-(2-Acetoxy-ethyl)-4-bromo-8-nitro-naphthalene-1-sulfonamide | 4.75 g | C(C)(=O)OCCC=1C=C(C2=C(C=CC=C2C1Br)[N+](=O)[O-])S(=O)(=O)N | C14H13BrN2O6S
